US09056859B2
4-Iodo-5-[2-(piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one hydrochloride was prepared from tert-butyl-4-[2-(4-iodo-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate using 4N HCl in dioxane in an analogous fashion to that described for the synthesis of 4-methyl-5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride above. LC-MS (IE, m/z): 373 [M+1]+.

reactant | tert-butyl-4-[2-(4-iodo-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate | 4N | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC1=C(C2=C(C(OC2)=O)C=C1)I | C19H25IN2O4
reactant | 4-methyl-5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride | Cl.CC1=C(C=CC=2C(OCC21)=O)CCN2CCNCC2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Iodo-5-[2-(piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one hydrochloride | Cl.IC1=C(C=CC=2C(OCC21)=O)CCN2CCNCC2 | InChI=1S/C14H17IN2O2.ClH/c15-13-10(3-6-17-7-4-16-5-8-17)1-2-11-12(13)9-19-14(11)18;/h1-2,16H,3-9H2;1H
